Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
shortness of breath, chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of CAD sp STEMI of RCA in ___ sp bare metal stenting,
hx of afib at time of STEMI without recurrence, HLD, 2+ AR, hx 
of
temporal arteritis on prednisone, and COPD who presents w/ chest
pain and tachycardia.

One hr PTA to the ED, patient developed sudden chest pain
radiating to her back. Notes nausea, sweating and shortness of
breath during this episode. She also had one episode of vomiting
at that time. Overall, the episode lasted for about 2 hours and
she cannot recall what she did to make it go away. By the time
she got to the ED, she mentions that she had some persistent 
back
pain, but that her chest pain had resolved. The pain came on at
rest, and she does not recall having any similar pain in the
past, or chest pain with exertion recently. No abdominal pain on
history, though does report nausea and vomiting with these
symptoms which have also resolved at this time.
 
In the ED:  
Initial vitals: T97.4, HR 132, BP 106/76, 88% on RA 
 
Exam notable for: 
-Pulmonary: B/l coarse breath sounds
-No obvious JVD or leg swelling
  
Labs notable for:  
-___: 15.1  PTT: 32.2  INR: 1.4 
- 10.8 > 13.5/41.9 < 300 
- proBNP: 1304
- Trop-T: <0.01 >> 0.08 >> 0.10 >> 0.07

143  101  15  
---------------< 130 
4.1  30  0.9 

-pH 7.40 pCO2 55 pO2 23 HCO3 35 

Studies notable for:  
Bedside echo of the heart with limited views but no obvious
pericardial effusion or  b-lines. 
EKG: Atrial flutter w/ variable block (2:1 to 4:1) w/ left axis
deviation, LVH, no ischemic changes. 

CTA: 
1. Study is mildly limited in the setting of motion artifact.
Within these limitations, no evidence of pulmonary embolism or
acute aortic abnormality.
2. Mild atelectasis at the bilateral lung bases, lingula, and
right middle lobe.
3. Previously characterized bilateral adrenal adenomas, only
partially
visualized on the current study.
4. Stable appearance of a 1.5 cm right thyroid nodule, unchanged
in appearance from prior study.

Consults:  Cards
Patient is currently chest pain free. Would continue to trend
troponin and continue to monitor for any additional symptoms.
Repeat ECG. 

Patient was given:  
Aspirin 325 mg
Piperacillin-Tazobactam 
Vancomycin 
Gabapentin 300 mg
PredniSONE 10 mg
Apixaban 5 mg
Aspirin 81 mg

Vitals on transfer: T97.4 HR90 BP123/68 RR18 96% RA 
 
On the floor patient states that it is hard to remember what her
chest pain was like, but thinks it was a ___ achy pain in her
chest as well as between her shoulder blades. The pain improved
quickly in the ED and now she only has a ___ achy pain in
between her shoulder blades. She also had one episode of 
vomiting
this morning (no hematemesis or coffee ground emesis), had
associated abdominal pain in the epigastric region, SOB and a
headache. She denied diaphoresis, fever, chills, palpitations,
changes in urination and bowel movements.
 

 
Past Medical History:
CARDIAC:
- History of coronary artery disease, status post STEMI of RCA
___. Treated with BMS.  Has residual diffuse disease. Refused
CABG.  EF preserved.
- History of the A. fib at the time of her STEMI.  No known
recurrence.
- Hyperlipidemia.
- DM (Type II)
- Small chronic Pericardial effusion
- ___ AR; 1+ TR

OTHER PAST MEDICAL HISTORY: 
COPD
Foot drop - left foot
Insomnia
Intervertebral disc degeneration
Radiculopathy (Lumbrosacral Region)
GERD
Low Back pain
Spinal Stenosis
Other abnormalities of gait and mobility
 
Social History:
___
Family History:
Mother with possible heart disease?
Fathers side with lots of cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================  
VS: T 97.4, BP 116 / 70, HR 81, RR 20, ___  
GENERAL: Well nourished elderly female in NAD. Oriented to name
and year (not month or day), not oriented to place (said ___). Mood, affect appropriate. Notably patient said she
lived alone in a house in ___ and manages all of her
medications, however she was sent from a SNF.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
No pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not visible  
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.
LUNGS: Tachypnic and speaking in short sentences. Moderate air
movement with basilar crackles. No wheezes. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. Trace edema.
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAMINATION:
===============================
T 97.6 PO BP 119 / 80 L Lying 65 18 93 RA 
GENERAL: Well nourished elderly female in NAD. 
HEENT: Normocephalic atraumatic. No conjunctival pallor 
NECK: JVP not elevated 
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops.
LUNGS: Moderate air movement with basilar crackles. No wheezes. 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No edema.
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

 
Pertinent Results:
ADMISSION LABS:
___:38AM BLOOD WBC-10.8* RBC-4.18 Hgb-13.5 Hct-41.9 
MCV-100* MCH-32.3* MCHC-32.2 RDW-15.0 RDWSD-55.2* Plt ___
___ 12:38AM BLOOD ___ PTT-32.2 ___
___ 12:38AM BLOOD Glucose-130* UreaN-15 Creat-0.9 Na-143 
K-4.1 Cl-101 HCO3-30 AnGap-12
___ 12:38AM BLOOD cTropnT-<0.01 proBNP-1304*
___ 08:05AM BLOOD cTropnT-0.08*
___ 11:00AM BLOOD cTropnT-0.10*
___ 02:45PM BLOOD cTropnT-0.07*

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-10.2* RBC-4.43 Hgb-14.3 Hct-44.9 
MCV-101* MCH-32.3* MCHC-31.8* RDW-15.7* RDWSD-58.7* Plt ___
___ 06:10AM BLOOD Plt ___

IMAGING:

 
Brief Hospital Course:
====================  
 PATIENT SUMMARY:  
====================  
___ hx of CAD sp STEMI of RCA in ___ sp bare metal stenting, 
hx of afib at time of STEMI without recurrence, HLD, 2+ AR, hx 
of temporal arteritis on prednisone, and COPD who presents w/ 
chest pain and tachycardia found to have elevated trops 
consistent with NSTEMI type II in the setting of Afib with RVR 
and new a-flutter.

====================  
 TRANSITIONAL ISSUES:  
====================  
 [ ] Decreased Apixaban to 2.5 BID (age, weight)
 [ ] Did not sent out on PO diuresis 
 [ ] Kept on home dose of Metoprolol 25 XL
 [ ] Consider initiation of low dose ___ as outpatient 
 [ ] New diagnosis of diabetes: A1C 6.6 on ___, please 
discuss lifestyle management as outpatient
 [ ] Please consider weaning Temazepam, patient received 
Ramelteon and was doing ok. 

# CODE STATUS: DNR/DNI 

===============  
ACTIVE ISSUES:  
=============== 
#Atrial flutter/A-fib: History of pAF, with new a-flutter with 
variable block. Now in sinus rhythm with PACs after receiving 
Metoprolol. Will hold off on ablation/cardioversion currently as 
patient is NSR and controlled on oral medication. PLAN AC: Dose 
reduce Apixaban to 2.5 BID (age >___, weight <60kg); RC: continue 
home Metoprolol 25 XL

#Volume overload, improved
#Hypoxia, improved 
On admission, patient had elevated JVP and BNP 1304.  Last TTE 
___ with EF of 60-65%, repeat TTE ___ with EF of >60% 
relatively unchanged from prior. No longer complaining of 
orthopnea after IV diuresis. Volume overload was likely in the 
setting of new a-flutter and a-fib causing diastolic dysfunction 
and thus fluid backup. Now rates are controlled and volume is 
off, patient is doing better however continues to appear 
tachypnic at rest but is not hypoxic. Patient states this is her 
baseline, likely secondary to deconditioning. PLAN: did not sent 
out on diuresis

#NSTEMI type II
#CAD with an RCA STEMI in ___ s/p BMS: proBNP: 1304, Trop-T: 
<0.01 >> 0.08 >> 0.10 >> 0.07. This was likely a demand ischemia 
in the setting of increased heart rate secondary to a-fib and 
new a-flutter. Did NOT pursue cath, also against patient's 
wishes to do so. Controlled afib/flutter as above and removed 
volume as above. Patient was chest pain free at discharge. PLAN: 
continue ASA81, Continue statin, Continue home metop 25 
succinate > can increase to 37.5 if rates continue to be 
uncontrolled, consider initiation of low dose ACEI as outpatient

#Bacteremia, contaminate 
___ blood cultures showing gram + cocci in pairs/clusters, 
speciated to coag negative staph. afebrile, HDS. UA negative for 
infection. This is likely a contaminant. PLAN: D/C'd abx ___

#Newly diagnosed, type II Diabetes: No dx of DMII though glucose 
130 on initial BMP. Was placed on insulin sliding scale and A1C 
___ elevated at 6.6. Given age and goal A1c 8.0, likely can be 
managed with lifestyle interventions as outpt. PLAN: continue to 
monitor

================  
CHRONIC ISSUES:  
================  
#History of giant cell temporal arteritis: Continued home 
Prednisone 10mg PO daily

#COPD: Continued home nebs as above

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Temazepam 15 mg PO QHS 
3. Vitamin D 1000 UNIT PO DAILY 
4. PredniSONE 10 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Apixaban 5 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Gabapentin 300 mg PO QHS 
11. TraMADol 50 mg PO TID 
12. Polyethylene Glycol 17 g PO DAILY 
13. Fluticasone Propionate 110mcg 1 PUFF IH BID 
14. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB 
15. Lidocaine 5% Patch 1 PTCH TD QAM 
16. Acetaminophen 1000 mg PO Q8H 
17. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
18. Fleet Enema (Mineral Oil) 1 Enema PR ONCE:PRN constipation 
19. Milk of Magnesia 30 mL PO ONCE:PRN Constipation - Third Line 

20. Senna 17.2 mg PO QHS 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
5.  Docusate Sodium 100 mg PO BID  
6.  Fleet Enema (Mineral Oil) 1 Enema PR ONCE:PRN constipation  
7.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
8.  Gabapentin 300 mg PO QHS  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN SOB  
10.  Lidocaine 5% Patch 1 PTCH TD QAM  
11.  Metoprolol Succinate XL 25 mg PO DAILY *AST Approval 
Required* 
12.  Milk of Magnesia 30 mL PO ONCE:PRN Constipation - Third 
Line  
13.  Omeprazole 20 mg PO DAILY *AST Approval Required* 
14.  Polyethylene Glycol 17 g PO DAILY  
15.  PredniSONE 10 mg PO DAILY  
16.  Senna 17.2 mg PO QHS  
17.  Temazepam 15 mg PO QHS  
18.  TraMADol 50 mg PO TID  
19.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Afib/a-flutter
Volume overload

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were having chest pain and 
shortness of breath

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were found to have a fast heart rate which we controlled 
with medications 
- You were given medications to take fluid off of your body

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___